US06989392B2
8-((4-(((2-aminoquinolin-8-yl)oxy)methyl)benzyl)oxy)-quinolin-2-amine
A 20 mL scintillation vial equipped with a septum cap was charged with PS-PPh3 resin (Aldrich Chemical Co., Inc, 132 mg, 4.2 equiv) 2-amino-8-hydroxyquinoline (151 mg, 10 equiv) and DBAD (70 mg, 3.2 equiv) and purged by passing a stream of N2 for 45 seconds. Anhydr. THF (2.0 mL) was added and contents of the vial were agitated for 5 min. Then, a solution of 1,4-benzenedimethanol (10 mg, 0.072 mmol) in anhydr. THF (1 mL) was added to the vial and the resulting suspension was agitated at room temperature for 8 h. The suspension was then filtered, and the resin washed with DMA (6×3.0 mL). The filtrate and washings were combined and evaporated in vacuo. The resulting solid was washed with EtOAc (2.5 mL) and hexanes (50 mL in a few portions) and dried under high vacuum at room temperature for 12 h to afford the product. 1H NMR (500 MHz, CDCl3) δ ppm 8.14 (d, 2H), 7.52 (br s, 4H), 7.46 (t, 2H), 7.33 (m, 2H), 7.08 (m, 2H), 7.07 (d, 2H), 5.18 (s, 4H); MS (DCI/NH3) m/z 423 [M+H]+.

reactant | PPh3 | 132 mg, 4.2 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-amino-8-hydroxyquinoline | 151 mg, 10 equiv | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | DBAD | 70 mg, 3.2 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | 1,4-benzenedimethanol | 0.072 mmol, 10 mg | C1(=CC=C(C=C1)CO)CO | C8H10O2
reactant | NH3 | N | H3N
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | 8-((4-(((2-aminoquinolin-8-yl)oxy)methyl)benzyl)oxy)-quinolin-2-amine | NC1=NC2=C(C=CC=C2C=C1)OCC1=CC=C(COC=2C=CC=C3C=CC(=NC23)N)C=C1 | C26H22N4O2
